US06329370B1
6-Methoxy-4-phenyl-2H-phthalazin-1-one
A suspension of [2-(4,4-dimethyl-4,5-dihydro-oxazol-2-yl)-5-methoxy-phenyl]-phenyl-methanone (3.4 g, 11 mmoles), prepared as described in example 12, in 3N HCl (45 ml) was refluxed under stirring for 2 days, then added with 36% HCl (10 ml). After 20 hours the mixture was cooled and extracted more times with CHCl3. The organic phases were anhydrified and brought to dryness. The residue was dissolved in acetic acid and treated with hydrazine monohydrate (0.96 g, 19.24 mmoles) in acetic acid (7 ml). The mixture was heated to 80° C. under dry N2 and stirring for 20 hours, then brought to small volume, poured into water, neutralised with NaHCO3 in excess and extracted with CHCl3. The organic phases anhydrified and brought to dryness yielded 0.6 g of the title compound (yield: 37%). m.p.: 230-235° C.

reactant | [2-(4,4-dimethyl-4,5-dihydro-oxazol-2-yl)-5-methoxy-phenyl]-phenyl-methanone | 11 mmoles, 3.4 g | CC1(N=C(OC1)C1=C(C=C(C=C1)OC)C(=O)C1=CC=CC=C1)C | C19H19NO3
reactant | hydrazine monohydrate | 19.24 mmoles, 0.96 g | O.NN
reactant | water | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HCl | 3N, 45 ml | Cl | ClH
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
solvent | HCl | 10 ml | Cl | ClH
product | 6-Methoxy-4-phenyl-2H-phthalazin-1-one | 0.6 g, yield: 37% | COC=1C=C2C(=NNC(C2=CC1)=O)C1=CC=CC=C1 | C15H12N2O2
